US04254116
5,5-Dimethyl-8-(3-cyclopropyl-2-propyl)-10-[4-(piperidino)-butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(3-cyclopropyl-2-propyl)-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl-carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-cyclopropyl-2-propyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CC2CC2)O)C=2C1=CC=NC2)C | C20H23NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl-carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(3-cyclopropyl-2-propyl)-10-[4-(piperidino)-butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)CC2CC2)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C29H38N2O3.ClH/c1-20(16-21-9-10-21)22-17-25(33-27(32)8-7-15-31-13-5-4-6-14-31)28-23-19-30-12-11-24(23)29(2,3)34-26(28)18-22;/h11-12,17-21H,4-10,13-16H2,1-3H3;1H
